US07960369B2
ethyl (4-methoxyphenoxy)acetate
To a solution of 4-methoxyphenol (5.0 g, 40 mmol) in N,N-dimethylformamide (50 mL) was added 60% sodium hydride (1.6 g, 40 mmol) under ice-cooling, and the mixture was stirred for 30 min. Ethyl bromoacetate (7.4 g, 44 mmol) was added thereto, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=7:1) to give the title compound (8.0 g, yield 94%). oil.

reactant | 4-methoxyphenol | 40 mmol, 5.0 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | sodium hydride | 40 mmol, 1.6 g | [H-].[Na+]
reactant | Ethyl bromoacetate | 44 mmol, 7.4 g | BrCC(=O)OCC | C4H7BrO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl (4-methoxyphenoxy)acetate | 8.0 g, yield 94% | COC1=CC=C(OCC(=O)OCC)C=C1 | C11H14O4
